US05192781
A mixture of 5 g of 2-chloro-1-(4-nitrophenyl)-hexan-3-one (0.02 mol) and 2.6 g of (methylthio)thioacetamide (0.022 mol) is heated at 60° C. for 24 h. The reaction is followed by TLC (7/3 cyclohexane/ethyl acetate). The reaction medium is then treated according to the process of Example 45 to give 5.6 g of 2-methylthiomethyl-5-(4-nitrobenzyl)-4-propylthiazole in the form of an orange oil.

reactant | 2-chloro-1-(4-nitrophenyl)-hexan-3-one | 0.02 mol, 5 g | ClC(CC1=CC=C(C=C1)[N+](=O)[O-])C(CCC)=O | C12H14ClNO3
reactant | (methylthio)thioacetamide | 0.022 mol, 2.6 g | CSCC(=S)N | C3H7NS2
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 2-methylthiomethyl-5-(4-nitrobenzyl)-4-propylthiazole | 5.6 g | CSCC=1SC(=C(N1)CCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O2S2
